US07696223B2
a) 2,3,7-Tribromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 103(a) from 2,3-dibromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, NBS and BzOOBz in carbontetrachloride. The title compound, ESI MS (m/z): 561 (M+H)+.

reactant | 2,3-dibromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC(=CC=C2)OC)O | C18H16Br2N2O4
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | BzOOBz | C(=O)(C1=CC=CC=C1)OOC(=O)C1=CC=CC=C1 | C14H10O4
solvent | carbontetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3,7-Tribromo-1-(3-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Br)Br)CC2=CC(=CC=C2)OC)O | C18H15Br3N2O4
